US06469065B1
15a. 2-Methyl-1-piperazinylpropane-2-thiol
Piperazine (7.72 g, 89.8 mmol) was dissolved in benzene (10 mL) and 2,2-dimethylthiirane (3.16 g, 35.9 mmol) was added. The reaction mixture was stirred at 80° C. for 1 hour, poured into the water and extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine and dried over anhydrous sodium sulfate. Volatiles were evaporated and the residue was dried on vacuum pump overnight to afford 3.9 g of the title compound. 1H NMR (CDCl3, 300 MHz): δ1.29 (s, 6H), 2.34 (s, 2H), 2.58 (t, 4H), 2.63 (s, 1H), 2.85 (t, 4H).

reactant | Piperazine | 89.8 mmol, 7.72 g | N1CCNCC1 | C4H10N2
reactant | 2,2-dimethylthiirane | 35.9 mmol, 3.16 g | CC1(SC1)C | C4H8S
reactant | water | O | H2O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2-Methyl-1-piperazinylpropane-2-thiol | 3.9 g | CC(CN1CCNCC1)(C)S | C8H18N2S
